* source PROJET_EMETTEUR_COMMUN
R_RC1         VS VCC  5.6k TC=0,0 
Q_Q4         N06749 N06831 N06923 BC238BP/ZTX 
R_R9         0 VE  50 TC=0,0 
R_RC2         N06357 VCC  5.6k TC=0,0 
R_RB2         0 N06513  33k TC=0,0 
C_C3         VE N06497  1m  TC=0,0 
Q_Q1         VS N06497 N06545 BC238BP/ZTX 
V_V7         0 VSS 12Vdc
R_RE3         N06917 VSS  10k TC=0,0 
C_C4         0 N06513  1m  TC=0,0 
R_RB1         0 N06497  33k TC=0,0 
R_RE1         N06749 N06545  47 TC=0,0 
Q_Q3         N06831 N06831 N06917 BC238BP/ZTX 
R_RE4         VSS N06923  1k TC=0,0 
R_RB3         N06831 0  47k TC=0,0 
R_RE2         N06749 N06551  47 TC=0,0 
Q_Q2         N06357 N06513 N06551 BC238BP/ZTX 
V_V6         VCC 0 12Vdc
V_V8         VS 0  AC 10m
+SIN 0 100m 1k 0 0 0
