* source PROJET_EMETTEUR_COMMUN
R_RC         N00558 VCC  5.6k TC=0,0 
Q_Q1         N00558 N01765 N00602 BC238BP/ZTX 
R_RE1         N02038 N00602  47 TC=0,0 
C_C1         VE N01765  1m  TC=0,0 
V_V3         EG 0  AC 10m
+SIN 0 100m 1k 0 0 0
R_R6         EG VE  50 TC=0,0 
R_RC1         VS VCC  5.6k TC=0,0 
Q_Q2         VS N01962 N01629 BC238BP/ZTX 
R_RE2         N02038 N01629  47 TC=0,0 
R_R7         0 N01765  30k TC=0,0 
R_R8         0 N01962  20k TC=0,0 
C_C2         0 N01962  1m  TC=0,0 
I_I1         N02038 VSS DC 2mAdc  
V_V4         VCC 0 12Vdc
V_V5         0 VSS 12Vdc
Q_Q2         VS N03119 N03157 BC238BP/ZTX 
R_RC2         VS VCC  5.6k TC=0,0 
R_RB2         0 N03119  20k TC=0,0 
V_V6         VCC 0 12Vdc
C_C3         VE N03105  1m  TC=0,0 
C_C4         0 N03119  1m  TC=0,0 
R_RE2         N03359 N03157  47 TC=0,0 
R_R9         EG VE  50 TC=0,0 
V_V7         0 VSS 12Vdc
V_V8         EG 0  AC 10m
+SIN 0 100m 1k 0 0 0
R_RB1         0 N03105  30k TC=0,0 
R_RC1         N02959 VCC  5.6k TC=0,0 
R_RE1         N03359 N03151  47 TC=0,0 
Q_Q1         N02959 N03105 N03151 BC238BP/ZTX 
R_RE4         VSS N03726  100 TC=0,0 
R_RB3         N03730 0  56k TC=0,0 
R_RE3         N03648 VSS  1k TC=0,0 
Q_Q3         N03730 N03730 N03648 BC238BP/ZTX 
Q_Q4         N03359 N03730 N03726 BC238BP/ZTX 
