* source PROJET_EMETTEUR_COMMUN
V_V7         0 VSS 12Vdc
R_RC2         VS VCC  5.6k TC=0,0 
C_C4         0 N04672  1m  TC=0,0 
C_C3         VE N04658  1m  TC=0,0 
Q_Q1         N04512 N04658 N04704 BC238BP/ZTX 
R_RE1         N04908 N04704  47 TC=0,0 
R_RB1         0 N04658  33k TC=0,0 
R_RE3         N05068 VSS  10k TC=0,0 
Q_Q4         N04908 N04984 N05072 BC238BP/ZTX 
R_RB3         N04984 0  47k TC=0,0 
R_RE4         VSS N05072  1k TC=0,0 
R_RE2         N04908 N04710  47 TC=0,0 
V_V8         EG 0  AC 10m
+SIN 0 100m 1k 0 0 0
Q_Q2         VS N04672 N04710 BC238BP/ZTX 
Q_Q3         N04984 N04984 N05068 BC238BP/ZTX 
V_V6         VCC 0 12Vdc
R_RC1         N04512 VCC  5.6k TC=0,0 
R_RB2         0 N04672  33k TC=0,0 
R_R9         EG VE  50 TC=0,0 
