* source PROJET_EMETTEUR_COMMUN
R_RB2         0 N00241  100k TC=0,0 
R_RB1         N00241 VCC  120k TC=0,0 
R_RE1         0 N00233  1.2k TC=0,0 
R_RC         N00237 VCC  2.2k TC=0,0 
R_R6         N00516 VE  50 TC=0,0 
R_RE2         0 N00277  220 TC=0,0 
C_C1         VE N00241  470n  TC=0,0 
C_C2         N00237 VS  470n  TC=0,0 
C_C3         N00277 N00233  6.8u  TC=0,0 
Q_Q1         N00237 N00241 N00233 BC238BP/ZTX 
V_V1         VCC 0 5Vdc
V_V3         N00516 0  AC 10m
+SIN 0 10m 50k 0 0 0
R_Rvh         0 VS  10k TC=0,0 
