* source PROJET_EMETTEUR_COMMUN
C_C1         VE N01523  1u  TC=0,0 
Q_Q1         VCC N01523 N01691 BC238BP/ZTX 
R_ZC         0 VS  4.7k TC=0,0 
R_RB1         N01523 VCC  68k TC=0,0 
R_RB2         0 N01523  150k TC=0,0 
R_RE         0 N01691  1k TC=0,0 
C_C2         N01691 N04480  1u  TC=0,0 
V_V3         EG 0  AC 3
+SIN 0 3 1k 0 0 0
V_V1         VCC 0 5Vdc
R_R6         EG VE  50 TC=0,0 
R_R7         N04480 VS  82 TC=0,0 
