* source PROJET_AMPLI_MICROPHONE
R_RC2         N12277 VCC  1k TC=0,0 
R_RB3         VREF N12355  10k TC=0,0 
R_RE3         N12513 N12373  100 TC=0,0 
Q_Q2         VS2 N12343 N12373 BC238BP/ZTX 
R_RE5         N12643 0  2.2k TC=0,0 
R_RE4         N12513 N12379  100 TC=0,0 
R_RB4         VREF N12343  10k TC=0,0 
C_C5         VREF N12355  1u  TC=0,0 
Q_Q5         N12513 N12565 N12649 BC238BP/ZTX 
R_RE6         0 N12649  220 TC=0,0 
V_V7         VREF 0 2.5V
Q_Q3         N12277 N12355 N12379 BC238BP/ZTX 
Q_Q4         N12565 N12565 N12643 BC238BP/ZTX 
R_RC1         VS2 VCC  1k TC=0,0 
R_RB5         N12565 VREF  2.2k TC=0,0 
V_V6         VCC 0 5Vdc
R_R6         N13116 VE  50 TC=0,0 
V_V3         N13116 0  AC 1m
+SIN 0 1m 1k 0 0 0
C_C1         VE N12343  1u  TC=0,0 
